US08012976B2
A mixture of methyl 3-(4-(diethoxymethyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 3-(4-(diethoxymethyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (430 mg, 0.94 mmol) in hydrazine monohydrate (10 mL) and methanol (5 mL) was stirred at 40° C. for 24 hr. The mixture was cooled to room temperature and filtered to give the 9-(4-(diethoxymethyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (270 mg, yield: 65%) as a light yellow solid. LC-MS (ESI) m/z: 442(M+1)+.

reactant | methyl 3-(4-(diethoxymethyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | C(C)OC(C1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1)OCC | C28H29NO5
reactant | ethyl 3-(4-(diethoxymethyl)phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 0.94 mmol, 430 mg | C(C)OC(C1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1)OCC | C29H31NO5
reactant | hydrazine monohydrate | 10 mL | O.NN
solvent | methanol | 5 mL | CO | CH4O
product | 9-(4-(diethoxymethyl)phenyl)-8-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 270 mg, yield: 65% | C(C)OC(C1=CC=C(C=C1)C1C(NC=2C=3C1=NNC(C3C=CC2)=O)C2=CC=CC=C2)OCC | C27H27N3O3
